US09427479B2
To a solution of (2S,3S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-methylpentanoic acid (Fmoc-Isoleucine) (7 g, 19.81 mmol) and pyridine (1.602 mL, 19.81 mmol) in DCM (120 mL) was added via cannula a solution of DAST (3.11 mL, 23.77 mmol) in DCM (20 mL) over 10 min. The reaction mixture was stirred at room temperature for 1 hour, diluted with DCM (80 mL), washed with ice-cold water (2×200 mL), the organic layer was dried over MgSO4, filtered, and evaporated in vacuo to give (9H-fluoren-9-yl)methyl (2S,3S)-1-fluoro-3-methyl-1-oxopentan-2-ylcarbamate (6.65 g, 94%) as a white solid. An esterification test was performed to assure quantitative acid fluoride formation by dissolving Fmoc-Ile-F (5 mg) in anhydrous MeOH (0.3 mL) and DIEA (0.030 mL) and allowing to react at room temperature for 15 min. The mixture was then evaporated in vacuo and analyzed by LCMS, showed less than 1% of Fmoc-Ile-OH present.

reactant | (2S,3S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-methylpentanoic acid | 19.81 mmol, 7 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)[C@H](CC)C | C21H23NO4
reactant | pyridine | 19.81 mmol, 1.602 mL | N1=CC=CC=C1 | C5H5N
reactant | DAST | 23.77 mmol, 3.11 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | (9H-fluoren-9-yl)methyl (2S,3S)-1-fluoro-3-methyl-1-oxopentan-2-ylcarbamate | 6.65 g, 94% | FC([C@H]([C@H](CC)C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O | C21H22FNO3
